US06692657B1
The 2-(2-(4-(2,3-difluoro-4-ethoxyphenyl)cyclohexylidene)-ethyl)-1,3-dioxane (36.9 mmol) obtained by the reaction of Step 3 was dissolved in 100 ml of a mixed solvent of toluene/ethanol (1/1), 4.0 g of 5-wt %-palladium/carbon catalyst was added, and the solution was stirred for 7 hours at room temperature under a hydrogen pressure of 1-2 kg/cm2. After the catalyst was filtered off, the solvent was distilled off from the filtrate under reduced pressure, the residue was subjected to silica gel column chromatography (eluent: a mixed solvent of ethyl acetate/toluene=3/7), the solvent was distilled off under reduced pressure, and the product was re-crystallized from ethanol to form 2-(2-(trans-4-(2,3-difluoro-4-ethoxyphenyl)-cyclohexyl)-ethyl)-1,3-dioxane (36.9 mmol).

reactant | 2-(2-(4-(2,3-difluoro-4-ethoxyphenyl)cyclohexylidene)-ethyl)-1,3-dioxane | 36.9 mmol | FC1=C(C=CC(=C1F)OCC)C1CCC(CC1)=CCC1OCCCO1 | C20H26F2O3
solvent | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
catalyst | palladium/carbon | [Pd] | Pd
product | 2-(2-(trans-4-(2,3-difluoro-4-ethoxyphenyl)-cyclohexyl)-ethyl)-1,3-dioxane | 36.9 mmol | FC1=C(C=CC(=C1F)OCC)[C@@H]1CC[C@H](CC1)CCC1OCCCO1 | C20H28F2O3
